US04499094
The process is carried out as for Example 1, starting from 2 g of 4-phenyl quinoline 2-carboxylic acid, 6 ml of thionyl chloride and 8.3 ml of diethylamine. After treatment, 2.3 g of N,N-diethyl 4-phenyl quinoline 2-carboxamide are isolated in the form of an orange oil. After crystallization from a 50/50 hexane-ether mixture, the product has a melting point lower than 50° C.

reactant | 4-phenyl quinoline 2-carboxylic acid | 2 g | C1(=CC=CC=C1)C1=CC(=NC2=CC=CC=C12)C(=O)O | C16H11NO2
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 8.3 ml | C(C)NCC | C4H11N
product | N,N-diethyl 4-phenyl quinoline 2-carboxamide | 2.3 g | C(C)N(C(=O)C1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1)CC | C20H20N2O
